US04034088
Sodium hydride (4.22 g.) (50% suspension in mineral oil) is added, under a nitrogen atmosphere, to a solution of 2-methylthio-imidazole (10 g.) in dimethylformamide (100 cc.). Ethyl chloroacetate (10.8 g.) is then added and reacted for 20 hours, with stirring, at a temperature of about 20° C. The mixture is concentrated to dryness under reduced pressure (20 mm.Hg), the residue is taken up in water (1.8 liters) and the aqueous solution is extracted with methylene chloride (560 cc.). The methylene chloride extracts are washed with water, dried over sodium sulphate, treated with decolorising charcoal and concentrated to dryness under reduced pressure (20 mm.Hg) to give ethyl (2-methylthio-imidazol-1-yl)-acetate (14.5 g.) in the form of an oil.

reactant | Sodium hydride | 4.22 g | [H-].[Na+]
reactant | 2-methylthio-imidazole | 10 g | CSC=1NC=CN1 | C4H6N2S
reactant | Ethyl chloroacetate | 10.8 g | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | ethyl (2-methylthio-imidazol-1-yl)-acetate | 14.5 g | CSC=1N(C=CN1)CC(=O)OCC | C8H12N2O2S
